US05294612
To 2-amino-5-pyridine carboxylic acid (10.1 g, 73.0 mmol) in DMF (100 ml) at room temperature under argon was added potassium carbonate (10.1 g, 73.0 mmol) followed by ethyl iodide (8.8 ml, 110.0 mmol) 15 minutes later. The reaction mixture was heated on a steam bath for 2 hours, then additional potassium carbonate (2.0 g) and ethyl iodide (4.4 ml) were added. The reaction mixture was heated on a steam bath for 60 hours, cooled to room temperature and stirred for 24 hours. The reaction mixture was warmed on a steam bath for 20 minutes, the solution was filtered and the filtrate was concentrated in vacuo. The residue was taken up in water (350 ml), the solution was chilled and the precipitate that was obtained was collected by filtration and air dried. The filtrate was extracted with chloroform (3×200 ml), the organic layers were combined, dried over anhydrous MgSO4 and the solvents were removed in vacuo. Ether was added to the residue and the solution was chilled for 24 hours. The resulting white precipitate was collected by filtration, air-dried and combined with the previously collected precipitate to afford 6.2 g (51%) of 2-amino-5-pyridinecarboxylic acid ethyl ester as a white solid.

reactant | 2-amino-5-pyridine carboxylic acid | 73.0 mmol, 10.1 g | NC1=NC=C(C=C1)C(=O)O | C6H6N2O2
reactant | potassium carbonate | 73.0 mmol, 10.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 110.0 mmol, 8.8 ml | C(C)I | C2H5I
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 4.4 ml | C(C)I | C2H5I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-amino-5-pyridinecarboxylic acid ethyl ester | 6.2 g, 51% | C(C)OC(=O)C=1C=CC(=NC1)N | C8H10N2O2
